US06645971B1
(a) Preparation of 1-(2-tert-Butyldimethylsilyloxyethyl)-3-[1-(3-hydroxymethylbenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
To a solution of 200 mg (0.468 mmol) of 3-[1-(3-hydroxymethylbenzyl) piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone in 3 ml of DMF, 22 mg (0.55 mmol) of sodium hydride (60%) were added under ice-cooling and stirred at the same temperature for 5 minutes and at room temperature for 10 minutes. After ice-cooling again, 224 mg (0.55 mmol) of 2-tert-butyldimethylsilyloxyethylbromide and 2 mg of tetrabutylammonium iodide were added thereto and stirred under ice-cooling for 4 hours. It was poured into aqueous sodium bicarbonate solution, extracted with ethyl acetate, washed with water, aqueous saturated sodium bicarbonate solution and saturated brine, and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the obtained residue was purified by silica gel column chromatography (chloroform—3% methanol/chloroform) to give 92 mg (0.16 mmol) of the title compound as colorless oil.

reactant | 3-[1-(3-hydroxymethylbenzyl) piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.468 mmol, 200 mg | OCC=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=CC1 | C27H29N3O2
reactant | sodium hydride | 0.55 mmol, 22 mg | [H-].[Na+]
reactant | 2-tert-butyldimethylsilyloxyethylbromide | 0.55 mmol, 224 mg | [Si](C)(C)(C(C)(C)C)OCCBr | C8H19BrOSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 2 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(2-tert-Butyldimethylsilyloxyethyl)-3-[1-(3-hydroxymethylbenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.16 mmol, 92 mg | [Si](C)(C)(C(C)(C)C)OCCN1C(N(C(C2=CC=CC=C12)C1=CC=CC=C1)C1CCN(CC1)CC1=CC(=CC=C1)CO)=O | C35H47N3O3Si
